US09193738B2
To a solution of 4-(3-chlorophenoxy)aniline (220 mg, 1 mmol, 1 equiv.) in dry MeCN (3 mL) under argon atmosphere was added cyclohexanecarbaldehyde (121 μL, 1 mmol, 1 equiv.) and 3,4-dihydro-2H-pyran (90 μL, 1 mmol, 1 equiv.) sequentially, followed by Mg(ClO4)2 (12.3 mg, 0.05 mmol, 0.05 equiv.). The reaction mixture was stirred at r.t. overnight. The solvent was removed under reduced pressure and the residue taken up in CH2Cl2 and passed through Decalite. The solvent of the filtrate was removed under reduced pressure and the crude crystallized from AcOEt to afford pure cis diastereomer (4aSR*,5RS*,10bSR*)-9-(3-chlorophenoxy)-5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline (138 mg, 34%) as white solid. The solvent from the mother liquid was evaporated and the remaining residue purified by Combiflash chromatography (SiO2, c-Hexane/AcOEt up to 10%) to obtain additionally 144 mg of the cis diastereomer (overall yield cis 71%) along with the 78 mg of trans diastereomer (4aSR*,5SR*,10bSR*)-9-(3-chlorophenoxy)-5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c] (18%) as yellow oil. The corresponding hydrochloride salts of the cis and trans diastereomer were prepared as follows.

reactant | 4-(3-chlorophenoxy)aniline | 1 mmol, 220 mg, 1 equiv. | ClC=1C=C(OC2=CC=C(N)C=C2)C=CC1 | C12H10ClNO
reactant | cyclohexanecarbaldehyde | 1 mmol, 121 μL, 1 equiv. | C1(CCCCC1)C=O | C7H12O
reactant | 3,4-dihydro-2H-pyran | 1 mmol, 90 μL, 1 equiv. | O1CCCC=C1 | C5H8O
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 9-(3-chlorophenoxy)-5-cyclohexyl-3,4,4a,5,6,10b-hexahydro-2H-pyrano[3,2-c]quinoline | 138 mg, 34% | ClC=1C=C(OC2=CC=3C4C(C(NC3C=C2)C2CCCCC2)CCCO4)C=CC1 | C24H28ClNO2
